US07994324B2
(R)-Indan-1-yl-[5-(2-methylsulfanyl-ethoxy)-quinolin-2-yl]-amine
(R)-Indan-1-yl-(5-iodo-quinolin-2-yl)-amine (250 mg, 0.6 mmol) were dissolved in toluene (2 mL). 2-Hydroxyethyl-methylsulfide (0.17 □L, 1.8 mmol), copper iodide (12 mg), cesium carbonate (420 mg, 1.2 mmol) and phenantroline (23 mg) were added. The reaction mixture was stirred for 48 h at 110° C. The reaction mixture was extracted with water (2×10 mL). The organic phase was dried on sodium sulfate and evaporated. The residue was subjected to column chromatography (silica gel, heptane:ethyl acetate 10:0→3:2) to yield the title compound as brown oil (80 mg, 35%); MS: m/e=351.6 (M+H+).

reactant | (R)-Indan-1-yl-(5-iodo-quinolin-2-yl)-amine | 0.6 mmol, 250 mg | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)I | C18H15IN2
reactant | 2-Hydroxyethyl-methylsulfide | 1.8 mmol | OCCSC | C3H8OS
reactant | cesium carbonate | 1.2 mmol, 420 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | phenantroline | 23 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper iodide | 12 mg | [Cu](I)I
product | (R)-Indan-1-yl-[5-(2-methylsulfanyl-ethoxy)-quinolin-2-yl]-amine | 80 mg, 35% | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)OCCSC | C21H22N2OS
